US06359134B1
1-(4,7-dichloroquinoline-3-sulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine
A suspension of 1-(7-chloro-4-hydroxyquinoline-3-sulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]-piperazine (200 mg) in phosphoryl chloride (6 ml) was refluxed for 2 hours. The reaction mixture was concentrated, and ice water was added to the residue. To the mixture was added an aqueous solution of sodium hydrogen carbonate, and the mixture was extracted with dichloromethane. The extract was dried and concentrated to give brown crystals of the title compound (223 mg).

reactant | 1-(7-chloro-4-hydroxyquinoline-3-sulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]-piperazine | 200 mg | ClC1=CC=C2C(=C(C=NC2=C1)S(=O)(=O)N1CCN(CC1)C(=O)C1=C(N=C(S1)C1=CC=NC=C1)C)O | C23H20ClN5O4S2
reactant | phosphoryl chloride | 6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(4,7-dichloroquinoline-3-sulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine | 223 mg | ClC1=C(C=NC2=CC(=CC=C12)Cl)S(=O)(=O)N1CCN(CC1)C(=O)C1=C(N=C(S1)C1=CC=NC=C1)C | C23H19Cl2N5O3S2
